Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
hydrochlorothiazide
 
Attending: ___
 
Chief Complaint:
6 intermittent episodes of visual loss since ___
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ male with a PMHx of HTN, AVR ___ 
insufficiency and aortic aneurysm, CAD s/p CABG ___, 
hypertensive emergency, compartment syndrome s/p fasciotomy who 
was sent in by ambulance from ___ ___ (___) for evaluation 
of intermittent episodes of visual loss. 

He presented to his PCP regarding right knee swelling, and the 
PCP referred him to the ED after the following episodes were 
described and requested a neurologic evaluation. He has had 6 
episodes since ___ these episodes are characterized by 
black spots in his periphery bilaterally followed by 
lightheadedness, room-spinning vertigo, and diaphoresis followed 
by vision going black. They last ___ minutes, and then he is 
back to baseline. The first two episodes occurred while 
standing; the others have been while seated or lying down. In 
the first two episodes, the darkness came down like a curtain, 
while his whole field went dark right away in the other four. 
There is no clear trigger. He denies any antecedent illness, 
trauma, or alcohol use. The most recent two episodes were 
associated with some chest pain (per ED, he can also have SOB 
with these episodes, although he denied this on my interview). 
He has not fallen or lost consciousness, and the recalls the 
episodes in full (no lost time); he does note that his gait is 
unstable during these episodes. No associated headache.

+Double vision and blurry vision during prior MI; not recently; 
intermittent hearing loss on left (not associated with above 
episodes), 1 episode difficulty swallowing in ___ (not 
associated with above), chronic RLE numbness after fasciotomy 
for compartment syndrome, had one episode of urinary 
incontinence in ___ where he had the urge to urinate but could 
not make it to the bathroom in time, dropping objects since ___ 
(e.g., cups of coffee)
On neuro ROS, the pt denies headache, dysarthria, tinnitus. 
Denies difficulties producing or comprehending speech.  Denies 
focal weakness, parasthesiae. No bowel incontinence or 
retention. 

+Fevers (1 in ___, twice in ___ associated with 
above episodes, +nausea in ___ x 1 (not associated with 
above ep)
On general review of systems, the pt denies recent chills. No 
night sweats or recent weight loss or gain. Denies cough, 
shortness of breath.  Denies palpitations.  Denies vomiting, 
diarrhea, constipation, or abdominal pain.  No recent change in 
bowel habits. No dysuria. Denies arthralgias or myalgias. Denies 
rash.

 
Past Medical History:
HYPERTENSION                                                    

HYPERLIPIDEMIA                                                  

CHRONIC RENAL INSUFFICIENCY                                     

AORTIC INSUFFICIENCY                                            
s/p bioprosthetic aortic valve repain ___                      

ASCENDING AORTIC DILATION                                       
s/p ascending aortic replacement ___                           

SICKLE CELL TRAIT                                               

NEPHROLITHIASIS                                                 

CORONARY ARTERY DISEASE                                         
s/p CABG ___                                                   

ACUTE RENAL FAILURE                                             
requiring HD while inpatient in ___, resolved             

COMPARTMENT SYNDROME OF RIGHT LEG                               
s/p lateral and medial fasciotomy  

MI                             

Surgical History:
AORTIC VALVE REPLACEMENT                              ___   
bioprosthetic valve placed in ___                     

ASCENDING AORTA REPLACEMENT                           ___   

CORONARY BYPASS SURGERY                               ___   
3 vessel   

Fasciotomy as above                            

 
Social History:
___
Family History:
Denies 
 
Physical Exam:
Admission Exam:
Vitals: T: ___ P: 68 R: 19  BP: 130/76 SaO2: 100RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in 
oropharynx
Neck: Supple
Pulmonary: no WOB
Cardiac: WWP
Abdomen: soft, ND
Extremities: No C/C/E bilaterally

Neurologic:
Please see top of note for NIHSS.

-Mental Status: Alert, oriented x 3. Able to relate history 
without difficulty. Attentive, able to name ___ backward without 
difficulty. Language is fluent with intact repetition and 
comprehension. Normal prosody. There were no paraphasic errors. 
Pt was able to name both high and low frequency objects.  Able 
to read without difficulty. Speech was not dysarthric. Able to 
follow both midline and appendicular commands. Pt was able to 
register 3 objects and recall ___ at 5 minutes ___ with categ, 
___ with MC prompts). There was no evidence of apraxia or 
neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without 
nystagmus. Normal saccades. To finger confrontation, he 
initially made errors in RUQ with either eye (but ok with red 
pin). Visual acuity ___ bilaterally with glasses on. 
Fundoscopic exam revealed no papilledema, exudates, or 
hemorrhages.
V: Decreased sensation to LT and temp in left V1-3 (V1/2 60% of 
normal to LT and temp; V3 30% of normal to LT and 60% of normal 
to temp); splits midline when tested across forehead and also 
with tuning fork
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk and tone. No pronation, no drift. No 
orbiting with arm roll. No adventitious movements, such as 
tremor, noted. No asterixis noted.  
[___]  
 [C5] [C5] [C7] [C6] [C7]  [T1][L2] [L3] [L5] [L4] [S1][L5]  
 L *   5    *    5    5     5   5    5    5    5    5   5 
 R *   5    5    5    5     5   5    5    5    5    5   5
*Give-way but cannot exclude underlying weakness with overlay; 
no ratcheting

-Sensory: decreased sensation RLE lateral>medial (chronic per 
patient, ___ fasciotomy) to LT and temp; decreased sensation to 
temp but not LT in LUE (60% of normal), absent proprioception at 
RLE, intact in LLE, no extinction

-DTRs: diffusely down; no clonus; L toe equivocal, R toe mute

-Coordination: No intention tremor, no dysdiadochokinesia noted. 
No dysmetria on FNF or HKS bilaterally.

-Gait: Antalgic gait; favors LLE

Discharge Exam:
Vitals: T: 98.2F P: 73 R: 18  BP: 139/76 SaO2: 100RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in 
oropharynx
Neck: Supple
Pulmonary: no WOB
Cardiac: WWP
Abdomen: soft, ND
Extremities: No C/C/E bilaterally

Neurologic:
Please see top of note for NIHSS.

-Mental Status: Alert, oriented x 3. Able to relate history 
without difficulty. Attentive, able to name ___ backward without 
difficulty. Language is fluent with intact repetition and 
comprehension. Normal prosody. There were no paraphasic errors. 
Pt was able to name both high and low frequency objects.  There 
was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without 
nystagmus.
VFF to finger wiggeling
V: Decreased sensation to LT and temp in left V1-3 
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk and tone. No pronation, no drift. No 
orbiting with arm roll. No adventitious movements, such as 
tremor, noted. No asterixis noted.  
[___]  
 [C5] [C5] [C7] [C6] [C7]  [T1][L2] [L3] [L5] [L4] [S1][L5]  
 L 5   5    5     5     5     5   5     5    5    5    5   5 
 R 5   5    5     5     5     5   4+    5    5    5    5   5

-Sensory: decreased sensation RLE lateral>medial (chronic per 
patient, ___ fasciotomy) to LT and temp; decreased sensation to 
temp but not LT in LUE (60% of normal),no extinction

-DTRs: diffusely down; no clonus; L toe equivocal, R toe mute

-Coordination: No intention tremor, no dysdiadochokinesia noted. 
No dysmetria on FNF or HKS bilaterally.

-Gait: deferred

 
Pertinent Results:
___ 06:33AM   GLUCOSE-76 UREA N-15 CREAT-1.6* SODIUM-140 
POTASSIUM-3.6 CHLORIDE-103 TOTAL CO2-24 ANION GAP-17
___ 06:33AM   ALT(SGPT)-11 AST(SGOT)-14 LD(LDH)-191 
CK(CPK)-117 ALK PHOS-84 TOT BILI-0.9
___ 06:33AM   GGT-51
___ 06:33AM   CK-MB-2 cTropnT-<0.01
___ 06:33AM   TOT PROT-7.0 ALBUMIN-4.1 GLOBULIN-2.9 
CHOLEST-210*
___ 06:33AM   %HbA1c-5.6 eAG-114
___ 06:33AM   TRIGLYCER-227* HDL CHOL-30 CHOL/HDL-7.0 
LDL(CALC)-135*
___ 06:33AM   TSH-1.8
___ 06:33AM   CRP-5.1*
___ 06:33AM   WBC-5.8 RBC-4.72 HGB-13.9 HCT-41.2 MCV-87 
MCH-29.4 MCHC-33.7 RDW-13.4 RDWSD-43.1
___:33AM   NEUTS-56.4 ___ MONOS-12.5 EOS-3.0 
BASOS-0.3 IM ___ AbsNeut-3.24 AbsLymp-1.58 AbsMono-0.72 
AbsEos-0.17 AbsBaso-0.02
___ 06:33AM   PLT COUNT-222
___ 06:33AM   ___ PTT-35.0 ___
___ 09:50PM   CRP-4.6
___ 09:50PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 09:50PM URINE  HOURS-RANDOM
___ 09:50PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 09:50PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 09:50PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-0.2 PH-6.0 
LEUK-NEG
___ 05:33PM   GLUCOSE-74 UREA N-16 CREAT-1.6* SODIUM-141 
POTASSIUM-4.3 CHLORIDE-105 TOTAL CO2-20* ANION GAP-20
___ 05:33PM   estGFR-Using this
___ 05:33PM   ALT(SGPT)-12 AST(SGOT)-22 ALK PHOS-86 TOT 
BILI-0.6
___ 05:33PM   cTropnT-<0.01
___ 05:33PM   WBC-6.7 RBC-4.93 HGB-14.7 HCT-42.8 MCV-87 
MCH-29.8 MCHC-34.3 RDW-13.4 RDWSD-42.4
___ 05:33PM   NEUTS-55.2 ___ MONOS-12.1 EOS-2.8 
BASOS-0.4 IM ___ AbsNeut-3.70 AbsLymp-1.96 AbsMono-0.81* 
AbsEos-0.19 AbsBaso-0.03
___ 05:33PM   PLT COUNT-237

CT head ___
IMPRESSION:  
No acute intracranial abnormality 

MRI MRA head ___
IMPRESSION:  
  
1.  A 0.7 cm T1/T2 hypointense lesion with intrinsic T1 
peripheral 
hyperintensity is seen within the left occipital lobe with 
associated blooming artifact. 
NOTE: Differential considerations include a cavernous 
malformation or focus of chronic hemorrhage given the additional 
foci of low signal on the 
susceptibility weighted sequences in the left basal ganglia and 
bilateral 
thalami. Findings are also less likely to be secondary to a 
hemorrhagic 
neoplasm, given lack of associated edema.  Contrast enhanced MRI 
may be 
helpful for further characterization. 
2.No evidence of recent hemorrhage or infarction. 
3.Diminutive left vertebral artery, with a dominant right 
vertebral artery.  Otherwise, unremarkable MRA of the head 
without evidence of aneurysm or stenosis. 
4.  No evidence of internal carotid artery stenosis by NASCET 
criteria. 
  

EEG:
Read not posted at time of discharge but per EEG fellow EEG 
showed generalized slowing but no epileptiform discharges or 
seizure activity.  

 
Brief Hospital Course:
Mr. ___ is a ___ man who presents with multiple 
stereotyped episodes of vision loss, lightheadedness, and 
vertigo. These are paroxysmal and last minutes. On MRI there is 
evidence of left occipital and left basal ganglia cavernous
hemangiomas. No evidence of stroke and vessels patent. It is 
possible that his episodes are due to simple partial seizures 
originating from the occipital lobe. EEG was obtained and showed 
generalized slowing, but no epileptiform activity or seizures. 
Although his EEG was negative there is still possibility that 
these episodes represent seizures. Anti- seizure prophylaxis was 
discussed with patient, which he declined at this time. We also 
discussed with the patient that he should avoid driving for the 
next 6 month since he can put himself and others at risk should 
an event occur while he is driving.  He was discharged home in 
stable condition with outpatient follow up.  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 10 mg PO DAILY 
2. Gabapentin 300 mg PO QHS 
3. Lisinopril 2.5 mg PO DAILY 
4. Metoprolol Tartrate 50 mg PO BID 
5. Simvastatin 10 mg PO QPM 
6. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  amLODIPine 10 mg PO DAILY  
2.  Aspirin 81 mg PO DAILY  
3.  Gabapentin 300 mg PO QHS  
4.  Lisinopril 2.5 mg PO DAILY  
5.  Metoprolol Tartrate 50 mg PO BID  
6.  Simvastatin 10 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Simple Partial Seizures

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
You were admitted to ___ for evaluation of 6 intermittent 
episodes of visual loss since ___ (unclear if monocular 
or binocular) which were initially concerning for ameurosis 
fugax (temporary loss of vision in one or both eyes due to a 
lack of blood flow to the retina). You underwent MRI Brain and 
vasculature and it did not show a stroke or any vessel 
abnormality. However, it did show left occipital and left basal 
ganglia cavernous
hemangiomas. Based on your description of the events and the 
imaging findings we are concerned for possible seizures that 
could explain your events. You underwent an EEG which showed 
generalized slowing but no epilpetiform activity or seizures. 
Even though your EEG was negative for seizure activity, etiology 
of your events could still be due to seizures as EEG does not 
always pick up all seizure activity. We discussed with you the 
possibility of starting you on anti seizure prophylaxis which 
you declined at this time. We also encourage you to avoid 
driving for the next 6 months since you could put yourself and 
others at risk should you have an event while driving. 

No changes to your medications was made. 
Please take your medications as described.

Please follow up with Neurology and your primary care physician 
as listed below.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team

 
Followup Instructions:
___